US07342115B2
A solution of n-BuLi (2.15 mL, 4.3 mmol) in pentane (2 M) is added dropwise to a solution of 1-(2-bromo-6-fluoro-phenyl)-propan-1-ol (500 mg, 2.15 mmol) in THF at −78° C. The mixture is stirred for 2 hours at −78° C. (i-PrO)3B (41 mL, 4.3 mmol) is added in one portion and the mixture is warmed slowly to room temperature and stirred for 12 hours. 1N HCl (10 mL) is added and the mixture is stirred for 2 hours at room temperature. The organic layer is separated and the aqueous layer is extracted with DCM (3×30 mL). The combined organic layers are dried and solvents are removed in vacuo. The crude product is purified by PTLC eluting with 5% MeOH in DCM to give 3-fluoro-2-(1-hydroxypropyl)phenylboronic acid.

reactant | n-BuLi | 4.3 mmol, 2.15 mL | [Li]CCCC
reactant | 1-(2-bromo-6-fluoro-phenyl)-propan-1-ol | 2.15 mmol, 500 mg | BrC1=C(C(=CC=C1)F)C(CC)O | C9H10BrFO
reactant | (i-PrO)3B | 4.3 mmol, 41 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | pentane | 2 M | CCCCC | C5H12
solvent | THF | C1CCOC1 | C4H8O
product | 3-fluoro-2-(1-hydroxypropyl)phenylboronic acid | FC=1C(=C(C=CC1)B(O)O)C(CC)O | C9H12BFO3
